
*******
*    N0----R1---N1--R2--N2
*    |          |       |
*    Vs         C1      C2
*    |          |       |
*    0----------+-------+
*
* 22100Ω * 47pf * 10000Ω * 47pf
* Spice netlister for gnetlist
R1 n0 n1 22100
C1 n1 0 47pF
R2 n1 n2 10000
C2 n2 0 47pF
V1 n0 0 AC
.END
