
*******
*    N0----R1---N1
*    |          |
*    Vs         C1
*    |          |
*    0----------+


* Spice netlister for gnetlist
R1 n0 n1 4990
C1 n1 0 4.9nF
V1 n0 0 AC
.END
